US08895035B2
Production of 1-[1,2-diisopropoxyimino-2-(1H-tetrazol-5-yl)ethyl]-1H-1,2,4-triazole (present compound No. I-213)
To 5 ml of a toluene solution containing 0.40 g (1.51 mmol) of 1-(2-cyano-1,2-diisopropoxyiminoethyl)-1H-1,2,4-triazole were added 0.35 g (3.03 mmol) of trimethylsilylazide and 0.38 g (1.51 mmol) of di-n-butyltin oxide, followed by stirring for 3 hours under heating and refluxing. The reaction mixture was cooled to room temperature, followed by extraction with ethyl acetate. The extract solution was washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (elutant:ethyl acetate/hexane=1/0). The crystal obtained was washed with isopropyl ether to obtain 0.23 g (yield: 47%) of a title compound.

reactant | 1-(2-cyano-1,2-diisopropoxyiminoethyl)-1H-1,2,4-triazole | 1.51 mmol, 0.40 g | C(#N)C(C(=NOC(C)C)N1N=CN=C1)=NOC(C)C | C11H16N6O2
reactant | trimethylsilylazide | 3.03 mmol, 0.35 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 1.51 mmol, 0.38 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[1,2-diisopropoxyimino-2-(1H-tetrazol-5-yl)ethyl]-1H-1,2,4-triazole | 0.23 g, yield: 47% | C(C)(C)ON=C(C(C1=NN=NN1)=NOC(C)C)N1N=CN=C1 | C11H17N9O2
